US05874440
6-Ethoxy-2-(2-propoxyphenyl)pyrimidin-4(3H)-one
A stirred solution of 4-chloro-6-hydroxy-2-(2-propoxyphenyl)pyrimidine (0.5 g) and sodium ethoxide (from 0.18 g sodium) in ethanol (25 ml) was heated in a pressure vessel at 125° C. for 24 hours. The residue left after evaporation was dissolved in water (20 ml), acetic acid was added to precipitate a gum, and the mixture was extracted with chloroform. Evaporation of the extract gave a solid which was recrystallized from ether to yield the title compound, 0.07 g, m.p. 95.5°-97° C.

reactant | 4-chloro-6-hydroxy-2-(2-propoxyphenyl)pyrimidine | 0.5 g | ClC1=NC(=NC(=C1)O)C1=C(C=CC=C1)OCCC | C13H13ClN2O2
reactant | sodium ethoxide | 0.18 g | [O-]CC.[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 6-Ethoxy-2-(2-propoxyphenyl)pyrimidin-4(3H)-one | C(C)OC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C15H18N2O3
